US04863920
109.03 g (300 mmol) of (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid was decarboxylated at 290°. The melt was dissolved in about 400 ml of N,N-dimethylformamide and the solution was poured into 2.5 l of water. After stirring for 30 minutes the precipitated product was filtered off, rinsed with water and dried. There was obtained (S)-8-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-one of melting point 232°-233°.

reactant | (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 300 mmol, 109.03 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CCC1)=O | C15H12BrN3O3
reactant | water | 2.5 l | O | H2O
solvent | N,N-dimethylformamide | about 400 ml | CN(C=O)C | C3H7NO
product | (S)-8-bromo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-one | BrC1=CC=CC2=C1CN1[C@H](C3N2C=NC3=O)CCC1 | C14H14BrN3O
